US04742062
Preparation of 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamyl)piperazine dihydrochloride (preparation by Process C)
1-(4-Chlorobenzyl)-4-(2,4-dichlorocinnamoyl)piperazine (1.0 g, 2.44 mmole) (the compound prepared in Reference Example 1) is dissolved in anhydrous tetrahydrofuran (10 ml), and thereto is added in portions lithium aluminum hydride (0.1 g, 2.63 mmole) at room temperature. After the addition, the mixture is stirred at room temperature for one hour. After adding water in portions, the reaction mixture is neutralized to approximately neutral with 3N hydrochloric acid, and then is extracted with ethyl acetate. The ethyl acetate layer is separated, washed with water, dried over anhydrous magnesium sulfate, and then the solvent is distilled off. The resulting oily substance is dissolved in ethanol (5 ml), and thereto is added an ethanol solution (10 ml) of conc. hydrochloric acid (0.5 ml), and the precipitated crystals are separated by filtration. The product is recrystallized from water-ethanol to give the title compound (0.2 g). The product has the same physical properties as those of the compound prepared in Example 1-(1).

reactant | 1-(4-Chlorobenzyl)-4-(2,4-dichlorocinnamoyl)piperazine | 2.44 mmole, 1.0 g | ClC1=CC=C(CN2CCN(CC2)C(C=CC2=C(C=C(C=C2)Cl)Cl)=O)C=C1 | C20H19Cl3N2O
reactant | lithium aluminum hydride | 2.63 mmole, 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamyl)piperazine dihydrochloride | 0.2 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CC=CC2=C(C=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C20H21Cl3N2.2ClH/c21-18-6-3-16(4-7-18)15-25-12-10-24(11-13-25)9-1-2-17-5-8-19(22)14-20(17)23;;/h1-8,14H,9-13,15H2;2*1H
